US08242104B2
To a solution of racemic-cis-3-hydroxy-4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester (92 mg, 0.186 mmol) in DCM (0.5 mL) and methanol (0.3 mL) was added slowly a solution of hydrogen chloride in dioxane (4M, 0.8 mL). The mixture was stirred at room temperature for 2 h 20 min, then concentrated in vacuo. The resultant residue was triturated twice with ether and dried under vacuum to give racemic-cis-4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidin-3-ol hydrochloride (86 mg, 108%). LCMS RT=1.93, [M+H]+=395.

reactant | racemic-cis-3-hydroxy-4-[2-(2-isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidine-1-carboxylic acid tert-butyl ester | 0.186 mmol, 92 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)C1=CC2=C(C3=NC(=CN3CCO2)C=2N(N=CN2)C(C)C)C=C1)O | C26H34N6O4
reactant | hydrogen chloride | Cl | ClH
solvent | DCM | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 0.3 mL | CO | CH4O
solvent | dioxane | 4M, 0.8 mL | O1CCOCC1 | C4H8O2
product | racemic-cis-4-[2-(2-Isopropyl-2H-[1,2,4]triazol-3-yl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulen-8-yl]-piperidin-3-ol hydrochloride | 86 mg, 108% | Cl.C(C)(C)N1N=CN=C1C1=CN2CCOC3=C(C2=N1)C=CC(=C3)[C@@H]3[C@@H](CNCC3)O | InChI=1S/C21H26N6O2.ClH/c1-13(2)27-21(23-12-24-27)17-11-26-7-8-29-19-9-14(3-4-16(19)20(26)25-17)15-5-6-22-10-18(15)28;/h3-4,9,11-13,15,18,22,28H,5-8,10H2,1-2H3;1H/t15-,18-;/m1./s1
